US06919355B2
d) 1-(4-Benzylpiperidin-1-yl)-1-(1,6-dihydro-1,6-diaza-as-indacene-2-yl)methanone
The title compound is prepared from 1,6-dihydro-1,6-diaza-as-indacene-2-carboxylic acid and 4-benzylpiperidine according to the method described in Example 1/c. Mp.: 186-188° C. (diethyl ether).

reactant | 1,6-dihydro-1,6-diaza-as-indacene-2-carboxylic acid | N1C(=CC2=CC=C3NC=CC3=C12)C(=O)O | C11H8N2O2
reactant | 4-benzylpiperidine | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-(4-Benzylpiperidin-1-yl)-1-(1,6-dihydro-1,6-diaza-as-indacene-2-yl)methanone | C(C1=CC=CC=C1)C1CCN(CC1)C(=O)C=1NC2=C3C=CNC3=CC=C2C1 | C23H23N3O
